US05576324
2,3,6,7,8,9-Hexahydro-2-hydroxymethyl-5-methylfuro[2,3-f]quinoline-7-one:
2-Hydroxymethyl-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one (538 mg) was added to acetic acid (AcOH) (11 ml). To the obtained mixture, 10% palladium-on-carbon (323 mg) was added, and the solution was hydrogenated in the atmosphere of hydrogen at 50° C. under atmospheric pressure. After completion of the reaction, the catalyst was filtered off. The solvent was evaporated, and the residue was dissolved in chloroform. The solution was washed with aqueous sodium bicarbonate solution and water in this order, and dried. Subsequently, the solvent was evaporated to obtain 478 mg of a crude. The obtained crude was purified by silica gel column chromatography (eluent:=chloroform:methanol=100:1), to obtain 395 mg of the target compound (72.8%). This substance was recrystallized from a solvent mixture of chloroform-n-hexane. As a result, colorless powdery crystals having a melting point of 172°-173° C. were obtained.

reactant | 2-Hydroxymethyl-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 538 mg | OCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H13NO3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 323 mg | [Pd] | Pd
solvent | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
product | 2,3,6,7,8,9-Hexahydro-2-hydroxymethyl-5-methylfuro[2,3-f]quinoline-7-one | 395 mg, 72.8% | OCC1CC=2C(=C3CCC(NC3=C(C2)C)=O)O1 | C13H15NO3
